US08633186B2
2-amino-6-(4,5-dihydrofuran-2-yl)benzonitrile
2-Amino-6-bromobenzonitrile (0.75 g, 3.81 mmol), (4,5-dihydrofuran-2-yl)trimethylstannane (Menez, P.; Fargeas, V.; Poisson, J.; Ardisson, J.; Lallemand, J.-Y.; Pancrazi, A. Tetrahedron Letters 1994, 35(42), 7767) (1.02 g, 4.38 mmol), and palladium tetrakis(triphenylphosphine) (0.33 g, 0.28 mmol) were refluxed in toluene (10.0 mL) under nitrogen for 1.5 h. Saturated ammonium chloride (12 mL) and ammonium hydroxide (4 mL) were added, and the mixture was extracted with EtOAc. The organic layer was concentrated under vacuum and the residue was purified by chromatography on silica using 35% EtOAc/hexanes to give 0.48 g (68%) of the title compound as yellow oil. 1H NMR (400 MHz, Acetone-d6) δ 2.78-2.83 (m, 2H), 4.40 (t, J=9.2 Hz, 2H), 5.76 (t, J=3.2 Hz, 1H), 6.04 (s, 2H), 6.77-6.80 (m, 2H), 7.28 (t, J=8.0 Hz, 1H). MS 187 (MH+).

reactant | 2-Amino-6-bromobenzonitrile | 3.81 mmol, 0.75 g | NC1=C(C#N)C(=CC=C1)Br | C7H5BrN2
reactant | (4,5-dihydrofuran-2-yl)trimethylstannane | O1C(=CCC1)[Sn](C)(C)C
reactant | ammonium chloride | 12 mL | [Cl-].[NH4+]
reactant | ammonium hydroxide | 4 mL | [OH-].[NH4+]
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium tetrakis(triphenylphosphine) | 0.28 mmol, 0.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 2-amino-6-(4,5-dihydrofuran-2-yl)benzonitrile | 0.48 g, 68% | NC1=C(C#N)C(=CC=C1)C=1OCCC1 | C11H10N2O
